US05290939
In the course of 30 minutes, at room temperature, 20 g of hydrogen bromide are introduced into a suspension of 50 g of 3-bromo-2-hydroxy-5-methoxy-benzyl alcohol in 300 ml of anhydrous acetic acid. The reaction mixture is stirred for 5 hours at room temperature and the resulting solution is concentrated by evaporation. The black-brown oily residue, which crystallises slowly when left to stand at room temperature, is crystallised from ethyl acetate/cyclohexane (5:1) with the addition of a small amount of activated charcoal. 3-Bromo-2-hydroxy-5-methoxy-benzyl bromide is thus obtained [1H-NMR (360 MHz, CDCl3): 3.75 (s, 3H, OCH3), 4.53 (s, 2H, CH2Br), 5.45 (s, 1H, OH), 6.85 (d, 1H), 7.00 (d, 1H) ppm].

reactant | hydrogen bromide | 20 g | Br | BrH
reactant | 3-bromo-2-hydroxy-5-methoxy-benzyl alcohol | 50 g | BrC=1C(=C(CO)C=C(C1)OC)O | C8H9BrO3
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-2-hydroxy-5-methoxy-benzyl bromide | BrC=1C(=C(CBr)C=C(C1)OC)O | C8H8Br2O2
